US05194430
Step c: N-Carbobenzoxypiperidine-2,3-dicarboxylic acid anhydride
Dissolve the 2:1 cis/trans mixture of N-carbobenzoxypiperidine-2,3-dicarboxylic acid diastereomers (20 g) in acetic anhydride (500 mL) and stir overnight under a dry nitrogen atmosphere. Vacuum distill off the acetic anhydride to leave the title compound as a red glass (11.1 g, 59%).

reactant | N-carbobenzoxypiperidine-2,3-dicarboxylic acid | C(=O)(OCC1=CC=CC=C1)N1C(C(CCC1)C(=O)O)C(=O)O | C15H17NO6
solvent | acetic anhydride | 500 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-Carbobenzoxypiperidine-2,3-dicarboxylic acid anhydride | 11.1 g, 59% | C(=O)(OCC1=CC=CC=C1)N1C2C(CCC1)C(=O)OC2=O | C15H15NO5
